US06642389B2
In analogy to the procedure described in example 108 c], [rac]-2-ethoxy-3-(7-hydroxy-benzo[b]thiophen-4-yl)-propionic acid methyl ester was treated with 4-chloromethyl-5-methyl-2-phenyloxazole and sodium hydride in N,N-dimethylformamide to yield [rac]-2-ethoxy-3-[7-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-4yl]-propionic acid methyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-ethoxy-3-[7-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-4-yl]-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-(7-hydroxy-benzo[b]thiophen-4-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C=2SC=CC21)O)OCC)=O | C14H16O4S
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [rac]-2-ethoxy-3-[7-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-4yl]-propionic acid methyl ester | COC(C(CC1=CC=C(C=2SC=CC21)OCC=2N=C(OC2C)C2=CC=CC=C2)OCC)=O | C25H25NO5S
